US05208243
N-Methyl-(1-benzyl-2-oxo-4-pyrrolidinyl)carboxamide.
0.2 mole of (1-benzyl-2-oxo-4-pyrrolidinyl)carboxylic acid (described in Journal of Organic Chemistry, 1961; 26: p 1519) is dissolved in 200 cm3 of methylene chloride. The mixture is treated with 32.4 g of carbonyldiimidazole. It is left in contact for 1 hour and then a solution consisting of 20 g of methylamine and 200 cm3 of methylene chloride is added. The mixture is left in contact for 12 hours at room temperature, washed with water and then dried over magnesium sulfate. An oil which is the expected compound is obtained.

reactant | (1-benzyl-2-oxo-4-pyrrolidinyl)carboxylic acid | 0.2 mole | C(C1=CC=CC=C1)N1C(CC(C1)C(=O)O)=O | C12H13NO3
reactant | carbonyldiimidazole | 32.4 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | methylamine | 20 g | CN | CH5N
solvent | methylene chloride | 200 cm3 | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 cm3 | C(Cl)Cl | CH2Cl2
product | N-Methyl-(1-benzyl-2-oxo-4-pyrrolidinyl)carboxamide | CNC(=O)C1CC(N(C1)CC1=CC=CC=C1)=O | C13H16N2O2
